US07307075B2
1-[3-(4-Butylpiperidin-1-yl)propyl]-1H-quinolin-2-one (092LH70-A)
A 7 mL vial was charged with 1-(3-chloropropyl)-1H-quinolin-2-one (0.450 g, 2.0 mmol), K2CO3 (0.34 g, 2.5 mmol), KI (0.42 g, 2.5 mmol), 4-butylpiperidine (0.30 g, 2.1 mmol) and dry CH3CN (3 mL). The mixture was shaken at 50° C. for 60 h and thereafter diluted with EtOAc (50 mL) and washed with water (50 mL). The water phase was extracted with EtOAc (2×50 mL). The combined organic phase was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by flash CC (SiO2; EtOAc/MeOH 4:1) followed by prep RP-HPLC to give the title compound (0.32 g, 49%). 1H NMR (CD3OD) δ 7.88 (d, J=9.6 Hz), 7.68 (brd, J=8.0 Hz), 7.65-7.61 (m, 2H), 7.33-7.25 (m, 1H), 6.64 (d, 9.6 Hz), 4.39-4.32 (m, 2H), 2.95-2.86 (m, 2H), 2.50-2.43 (m, 2H), 2.01-1.86 (m, 4H), 1.71-1.62 (m, 2H), 1.35-1.12 (m, 9H), 0.89 (t, J=6.6 Hz); 13C NMR (CD3OD) δ 163.1, 140.4, 139.0, 131.1, 129.2, 122.6, 121.4, 120.3, 114.7, 55.8, 53.9, 40.6, 36.2, 35.7, 32.0, 28.9, 24.7, 22.8, 13.2.

reactant | 1-(3-chloropropyl)-1H-quinolin-2-one | 2.0 mmol, 0.450 g | ClCCCN1C(C=CC2=CC=CC=C12)=O | C12H12ClNO
reactant | K2CO3 | 2.5 mmol, 0.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-butylpiperidine | 2.1 mmol, 0.30 g | C(CCC)C1CCNCC1 | C9H19N
reactant | CH3CN | 3 mL | CC#N | C2H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-[3-(4-Butylpiperidin-1-yl)propyl]-1H-quinolin-2-one | 0.32 g, 49% | C(CCC)C1CCN(CC1)CCCN1C(C=CC2=CC=CC=C12)=O | C21H30N2O
